US07968570B2
J108: 5-(5-Hydroxymethyl-pyridin-3-yl)-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one
To a solution of 5-[7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindol-5-yl]-pyridine-3-carbaldehyde (91 mg, 0.212 mmol), in ethanol (10 mL) was added sodium borohydride (10 mg, 0.212 mmol). The mixture stirred for 4 hrs at room temperature and was poured into water and was extracted with ether. The organics were dried over anhydrous sodium sulfate, filtered and concentrated. The resulting residue was purified by column chromatography eluting with 30-100% ethyl acetate in hexanes. The isolated product stirred in 1N HCl/MeOH overnight and was neutralized with 1N NaOH, extracted with ether, and concentrated to afford the title compound (62 mg, 68%) as a yellow solid. 1H NMR (300 MHz, CDCl3): δ 8.74 (s, 1H), 78.61 (s, 1H), 8.15 (s, 1H), 7.41-7.36 (m, 4H), 7.22 (d, 2H), 4.91 (s, 2H), 4.82 (s, 2H), 4.36 (s, 2H), 2.85 (s, 3H).

reactant | 5-[7-Methyl-1-oxo-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-1H-isoindol-5-yl]-pyridine-3-carbaldehyde | 0.212 mmol, 91 mg | CC=1C=C(C=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC(F)(F)F)C=1C=C(C=NC1)C=O | C23H17F3N2O3
reactant | sodium borohydride | 0.212 mmol, 10 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(5-Hydroxymethyl-pyridin-3-yl)-7-methyl-2-(4-trifluoromethoxy-benzyl)-2,3-dihydro-isoindol-1-one | 62 mg, 68% | OCC=1C=C(C=NC1)C=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C23H19F3N2O3
